US05801202
Synthesis of 1-(2-hydroxyethylamino)-3-(10-methylhexadecyloxy)-2-propanol [=Compound (1-1), R2 =H, and n=9 in formula (1)]:
By use of ethanol (4 ml), 10-methylhexadecylglycidyl ether (100 mg, 0.32 mmol) was transferred to a 10 ml dropping funnel, which was fitted to a 20 ml round bottomed flask containing ethanolamine (1 ml) and ethanol (0.2 ml). The content of the flask was stirred at 80° C. in a nitrogen atmosphere. The ethanol solution was added dropwise over 10 minutes. The mixture was stirred for a further 1 hour, and then condensed under reduced pressure. The resulting residue was purified by silica gel flush chromatography. 94 mg of the title compound was obtained as a pale yellow Vaseline-like material (yield: 79%).

reactant | 10-methylhexadecylglycidyl ether | 0.32 mmol, 100 mg | CC(CCCCCCCCCOCC1CO1)CCCCCC | C20H40O2
reactant | ethanolamine | 1 ml | C(O)CN | C2H7NO
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 0.2 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1-(2-hydroxyethylamino)-3-(10-methylhexadecyloxy)-2-propanol | 94 mg | OCCNCC(COCCCCCCCCCC(CCCCCC)C)O | C22H47NO3
